US07816391B2
Trifluoroacetic acid (4.72 mL, 61.46 mmol) was added to tert-butyl 5-(cyclohexylthio)-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylate (Intermediate#89) (2.56 g, 6.15 mmol) in CH2Cl2 (40 mL) The resulting solution was stirred at 20° C. for 24 hours. The reaction mixture was evaporated to dryness, re-dissolved in dioxan (20 mL) and re-evaporated to dryness to afford 5-(cyclohexylthio)-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylic acid (2.25 g, 100%) as a white crystalline solid.

reactant | Trifluoroacetic acid | 61.46 mmol, 4.72 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 5-(cyclohexylthio)-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylate | 6.15 mmol, 2.56 g | C1(CCCCC1)SC1=C(C=NN1C1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C | C22H28N2O4S
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 5-(cyclohexylthio)-1-(4-(methoxycarbonyl)phenyl)-1H-pyrazole-4-carboxylic acid | 2.25 g, 100% | C1(CCCCC1)SC1=C(C=NN1C1=CC=C(C=C1)C(=O)OC)C(=O)O | C18H20N2O4S
